US07482341B2
3-Chloro-N-(5-ethoxymethyl-6-methyl-pyridin-2-yl)-2-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-ethoxymethyl-6-methyl-pyridin-2-ylamine (0.066 g) and 3-chloro-2-methyl-benzenesulfonyl chloride (0.099 g) as an off-white solid (0.08 g). MS (ESI−): 351.3 ([M−H]−)

reactant | 5-ethoxymethyl-6-methyl-pyridin-2-ylamine | 0.066 g | C(C)OCC=1C=CC(=NC1C)N | C9H14N2O
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.099 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-(5-ethoxymethyl-6-methyl-pyridin-2-yl)-2-methyl-benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=C(C=C1)COCC)C)C | C16H19ClN2O3S
